US08334287B2
c) 6-(4-iodo-2,5-dimethyl-imidazol-1-yl)-3H-pyrimidin-4-one
The title compound, light yellow crystalline solid, MS: m/e=316.9 (M+H+), was prepared in accordance with the general method of example 1a by treatment of 4-fluoro-6-(4-iodo-2,5-dimethyl-imidazol-1-yl)-pyrimidine with 50% KOH in tert-butanol.

reactant | 4-fluoro-6-(4-iodo-2,5-dimethyl-imidazol-1-yl)-pyrimidine | FC1=NC=NC(=C1)N1C(=NC(=C1C)I)C | C9H8FIN4
reactant | KOH | [OH-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 6-(4-iodo-2,5-dimethyl-imidazol-1-yl)-3H-pyrimidin-4-one | IC=1N=C(N(C1C)C1=CC(NC=N1)=O)C | C9H9IN4O
